US04154943
methyl 4-dimethoxymethyl-hexanoate
To a solution containing anhydrous methanol (70 ml) and concentrated sulfuric acid (3 drops) was added methyl 4-formylhexanoate (10.2 g, 64.5 mmol). The solution was stirred at room temperature for 24 hours then solid potassium carbonate was added to neutralize the acid. Most of the solvent was evaporated under vacuum then water (100 ml) was added and the solution extracted twice with hexane (50 ml) then twice ether. The organic phases were combined and dried over anhydrous magnesium sulfate.

reactant | methyl 4-formylhexanoate | 64.5 mmol, 10.2 g | C(=O)C(CCC(=O)OC)CC | C8H14O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 70 ml | CO | CH4O
catalyst | sulfuric acid | 3 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 4-dimethoxymethyl-hexanoate | COC(C(CCC(=O)OC)CC)OC | C10H20O4
